* Z:\mnt\design.r\spice\examples\1931A.asc
D1 N002 0 MBRS140
R1 N003 0 10.0K
R2 OUT N003 29.4K
V1 IN 0 5
C1 N001 N002 1µ
L1 IN N001 10µ
L2 OUT N002 10µ
C2 OUT N003 220p
C4 0 OUT 22µ Rser=50m
XU1 N001 0 N003 IN IN LT1931A
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
K1 L1 L2 1
.lib LT1931A.sub
.backanno
.end
